US08835428B2
Step 2: 3-(4-(3-(2-fluorophenyl)ureido)phenyl)isoxazole-5-carboxylic acid
3-{4-[3-(2-Fluoro-phenyl)ureido]-phenyl}-isoxazole-5-carboxylic acid ethyl ester (4.6 g) was dissolved in THF (92 ml). 1M aqueous NaOH solution (65 ml) was added and stirred at RT for 15-20 minutes. The reaction mixture was acidified with dilute HCl and extracted with EtOAc. Organic layer was separated, dried over Na2SO4 and concentrated under reduced pressure to get off white solid, which was crystallized from CH2Cl2 to yield 3.68 g (86%) white solid. MS (ES+): m/z 342 (M+1); 1HNMR (DMSO-d6, 300 MHz): δ 9.33 (s, 1H), 8.63 (s, 1H), 8.13 (m, 1H), 7.89 (d, 2H), 7.7 (s, 1H), 7.6 (d, 2H), 7.23 (m, 1H), 7.13 (m, 1H), 7.02 (m, 1H).

reactant | 3-{4-[3-(2-Fluoro-phenyl)ureido]-phenyl}-isoxazole-5-carboxylic acid ethyl ester | 4.6 g | C(C)OC(=O)C1=CC(=NO1)C1=CC=C(C=C1)NC(=O)NC1=C(C=CC=C1)F | C19H16FN3O4
reactant | NaOH | 1M, 65 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | THF | 92 ml | C1CCOC1 | C4H8O
product | 3-(4-(3-(2-fluorophenyl)ureido)phenyl)isoxazole-5-carboxylic acid | 3.68 g, 86% | FC1=C(C=CC=C1)NC(NC1=CC=C(C=C1)C1=NOC(=C1)C(=O)O)=O | C17H12FN3O4
